US04433149
A solution of ethyl P-methyl-2-nitrophenylphosphinate (10 mmol) in ethanol (40 ml) containing 10% palladium on carbon (200 mg) is hydrogenated at atmospheric pressure. After cessation of hydrogen uptake, the mixture is filtered and evaporated to dryness to give ethyl P-methyl-2-aminophenylphosphinate.

reactant | ethyl P-methyl-2-nitrophenylphosphinate | 10 mmol | CP(OCC)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C9H12NO4P
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | ethyl P-methyl-2-aminophenylphosphinate | CP(OCC)(=O)C1=C(C=CC=C1)N | C9H14NO2P
